US09062013B2
Ethyl trans-3-(4-bromophenyl)-2,2-dimethylcyclopropanecarboxylate
Isopropyltriphenylphosphonium iodide (8.65 g, 20.0 mmol) and ethyl 4-bromo-cinnamate (5.10 g, 20.0 mmol) were reacted as described under General Procedure B to furnish the title compound (3.21 g, 54%) as a colourless oil. 1H NMR (300 MHz, CDCl3) δ 7.40 (d, J=8.3 Hz, 2H), 7.03 (d, J=8.3 Hz, 2H), 4.18 (q, J=7.1 Hz, 2H), 2.62 (d, J=5.5 Hz, 1H), 1.91 (d, J=5.5 Hz, 1H), 1.36 (s, 3H), 1.30 (t, J=7.1 Hz, 3H), 0.91 (s, 3H).

reactant | Isopropyltriphenylphosphonium iodide | 20.0 mmol, 8.65 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl 4-bromo-cinnamate | 20.0 mmol, 5.10 g | BrC1=CC=C(C=CC(=O)OCC)C=C1 | C11H11BrO2
product | Ethyl trans-3-(4-bromophenyl)-2,2-dimethylcyclopropanecarboxylate | 3.21 g, 54% | BrC1=CC=C(C=C1)[C@@H]1C([C@H]1C(=O)OCC)(C)C | C14H17BrO2
